US04963553
A 13.3 g portion of 3-chloro-7-[3-(trifluoromethyl)phenyl)pyrazolo[1,5-a]pyrimidine and 7 g of sodium cyanoborohydride in 150 ml of acetic acid, were reacted as described in Example 1, giving 6.7 g of 3-chloro-4,5-dihydro-7-[3-(trifluoromethyl)phenyl]pyrazolo[1,5-a]pyrimidine.

reactant | 3-chloro-7-[3-(trifluoromethyl)phenyl)pyrazolo[1,5-a]pyrimidine | ClC=1C=NN2C1N=CC=C2C2=CC(=CC=C2)C(F)(F)F | C13H7ClF3N3
reactant | sodium cyanoborohydride | 7 g | C(#N)[BH3-].[Na+]
solvent | acetic acid | 150 ml | C(C)(=O)O | C2H4O2
product | 3-chloro-4,5-dihydro-7-[3-(trifluoromethyl)phenyl]pyrazolo[1,5-a]pyrimidine | 6.7 g | ClC=1C=NN2C1NCC=C2C2=CC(=CC=C2)C(F)(F)F | C13H9ClF3N3
